US07816395B2
a) 1,1-Dimethylethyl (3S)-3-[(3-chloro-4-cyanophenyl)amino]-4-[(2,2-dimethylpropyl)amino]butanoate
NaBH(OAc)3 (0.5 g, 2.32 mmol) was added to a solution of 1,1-dimethylethyl (3S)-4-amino-3-[(3-chloro-4-cyanophenyl)amino]butanoate (0.48 g, 1.55 mol), and trimethylacetaldehyde (0.14 g, 1.60 mmol) in CH2Cl2 (35 mL). After stirring at room temperature for 2 h, the reaction was diluted with CH2Cl2 (35 mL), washed with saturated NaHCO3, dried over Na2SO4, filtered, and concentrated to yield the titled product (0.575 g, 98%) as an oil. LC-MS (ES) m/e 380.6 (M+H)+.

reactant | NaBH(OAc)3 | 2.32 mmol, 0.5 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | 1,1-dimethylethyl (3S)-4-amino-3-[(3-chloro-4-cyanophenyl)amino]butanoate | 1.55 mol, 0.48 g | NC[C@H](CC(=O)OC(C)(C)C)NC1=CC(=C(C=C1)C#N)Cl | C15H20ClN3O2
reactant | trimethylacetaldehyde | 1.60 mmol, 0.14 g | CC(C=O)(C)C | C5H10O
solvent | CH2Cl2 | 35 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 35 mL | C(Cl)Cl | CH2Cl2
product | 1,1-Dimethylethyl (3S)-3-[(3-chloro-4-cyanophenyl)amino]-4-[(2,2-dimethylpropyl)amino]butanoate | 0.575 g, 98% | ClC=1C=C(C=CC1C#N)N[C@@H](CC(=O)OC(C)(C)C)CNCC(C)(C)C | C20H30ClN3O2
